*Basic Inverter Measurements
.include MOSIS_TSMC_025um.spice


.option scale=1u

M1000 out in vdd vdd CMOSP w=3 l=2
+  ad=22 pd=20 as=19 ps=18
M1001 out in 0 0 CMOSN w=3 l=2
+  ad=22 pd=20 as=19 ps=18
* C0 in 0 3.05fF

vvdd vdd 0 2.5V DC 
vin in 0 DC 



.control
    alter vvdd = 0.7
    dc vin 0 0.7V 0.1V 
    run
    plot v(out) v(in) title "Inverter Vout/Vin for Vgs = 0.7"
    let d_out = deriv(out)
    * plot d_out
    meas dc VIL
    + find in when d_out=-1 cross=1
    meas dc VOH
    + find out when d_out=-1 cross=1

    meas dc VIH
    + find in when d_out=-1 cross=2
    meas dc VOL
    + find out when d_out=-1 cross=2

    meas dc VM
    + find in when out=in cross=1

    let highMargin = 0.7 - VIH
    let lowMargin = VIL
    print highMargin
    print lowMargin
    let meanI = mean(-i(vvdd))
    let meanP = mean(-i(vvdd)*V(vdd))
    print meanI
    print meanP

    alter vvdd = 1.2
    dc vin 0 1.2V 0.1V 
    run
    plot v(out) v(in) title "Inverter Vout/Vin for Vgs = 1.2"
    let d_out = deriv(out)
    * plot d_out
    meas dc VIL
    + find in when d_out=-1 cross=1
    meas dc VOH
    + find out when d_out=-1 cross=1

    meas dc VIH
    + find in when d_out=-1 cross=2
    meas dc VOL
    + find out when d_out=-1 cross=2

    meas dc VM
    + find in when out=in cross=1

    let highMargin = 1.2 - VIH
    let lowMargin = VIL
    print highMargin
    print lowMargin
    let meanI = mean(-i(vvdd))
    let meanP = mean(-i(vvdd)*V(vdd))
    print meanI
    print meanP

    alter vvdd = 1.8
    dc vin 0 1.8V 0.1V 
    run
    plot v(out) v(in) title "Inverter Vout/Vin for Vgs = 1.8"
    let d_out = deriv(out)
    * plot d_out
    meas dc VIL
    + find in when d_out=-1 cross=1
    meas dc VOH
    + find out when d_out=-1 cross=1

    meas dc VIH
    + find in when d_out=-1 cross=2
    meas dc VOL
    + find out when d_out=-1 cross=2

    meas dc VM
    + find in when out=in cross=1

    let highMargin = 1.8 - VIH
    let lowMargin = VIL
    print highMargin
    print lowMargin
    let meanI = mean(-i(vvdd))
    let meanP = mean(-i(vvdd)*V(vdd))
    print meanI
    print meanP

    alter vvdd = 2.5
    dc vin 0 2.5V 0.1V 
    run
    *same characteristic from previous question is used instead
    plot v(out) v(in) title "Inverter Vout/Vin for Vgs = 2.5" 
    let d_out = deriv(out)
    * plot d_out
    meas dc VIL
    + find in when d_out=-1 cross=1
    meas dc VOH
    + find out when d_out=-1 cross=1

    meas dc VIH
    + find in when d_out=-1 cross=2
    meas dc VOL
    + find out when d_out=-1 cross=2

    meas dc VM
    + find in when out=in cross=1

    let highMargin = 2.5 - VIH
    let lowMargin = VIL
    print highMargin
    print lowMargin
    let meanI = mean(-i(vvdd))
    let meanP = mean(-i(vvdd)*V(vdd))
    print meanI
    print meanP

.endc


.end
