* SPICE3 file created from aoi22.ext - technology: scmos
.include MOSIS_TSMC_025um.spice
.option scale=1u

M1000 a_n4_n14# c out gnd CMOSN w=8 l=2
+  ad=48 pd=28 as=80 ps=52
M1001 Vdd c a_n11_18# Vdd CMOSP w=20 l=2
+  ad=120 pd=52 as=320 ps=152
M1002 a_n11_18# a Vdd Vdd CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 out d a_12_n14# gnd CMOSN w=8 l=2
+  ad=0 pd=0 as=48 ps=28
M1004 a_12_n14# b gnd gnd CMOSN w=8 l=2
+  ad=0 pd=0 as=48 ps=28
M1005 out b a_n11_18# Vdd CMOSP w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1006 gnd a a_n4_n14# gnd CMOSN w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 a_n11_18# d out Vdd CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 gnd out 2.44fF
C1 a_n11_18# Vdd 4.32fF
C2 out 0 7.29fF
C3 a_n11_18# 0 3.76fF
C4 d 0 5.66fF
C5 b 0 5.66fF
C6 a 0 5.66fF
C7 c 0 5.97fF


Vvdd Vdd 0 2.5V DC
Vd d 0 0 PULSE(0V 2.5V 0 1ns 1ns 160ns 320ns)
Va a 0 0 PULSE(0V 2.5V 0 1ns 1ns 80ns 160ns)
Vb b 0 0 PULSE(0V 2.5V 0 1ns 1ns 40ns 80ns)
Vc c 0 0 PULSE(0V 2.5V 0 1ns 1ns 20ns 40ns)


.control
tran 1ns 320ns
run
plot V(d) V(a) V(b) V(c) V(out) title "F_aoi22 All States Plot"
alter Vd=0V
alter Va=0V
alter Vb=0V
alter Vc=0V

op


print V(d) V(a) V(b) V(c) V(out)
alter Vc=2.5V
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=0v
alter Vb=2.5V
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=2.5v
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=0v
alter Vb=0V
alter Va=2.5V
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=2.5v
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=0v
alter Vb=2.5v
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc = 2.5
op
print V(d) V(a) V(b) V(c) V(out)

alter Vd=2.5v

op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=2.5V
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=0v
alter Vb=2.5V
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=2.5v
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=0v
alter Vb=0V
alter Va=2.5V
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=2.5v
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=0v
alter Vb=2.5v
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc = 2.5
op
print V(d) V(a) V(b) V(c) V(out)
.endc

.end
