* SPICE3 file created from oai31.ext - technology: scmos
.include MOSIS_TSMC_025um.spice
.option scale=1u

M1000 a_n4_n14# a gnd gnd CMOSN w=8 l=2
+  ad=96 pd=56 as=88 ps=54
M1001 a_n4_18# a Vdd Vdd CMOSP w=30 l=2
+  ad=180 pd=72 as=200 ps=100
M1002 a_4_18# c a_n4_18# Vdd CMOSP w=30 l=2
+  ad=180 pd=72 as=0 ps=0
M1003 out b a_n4_n14# gnd CMOSN w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1004 a_n4_n14# d gnd gnd CMOSN w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 out d a_4_18# Vdd CMOSP w=30 l=2
+  ad=160 pd=72 as=0 ps=0
M1006 gnd c a_n4_n14# gnd CMOSN w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 Vdd b out Vdd CMOSP w=10 l=2
+  ad=0 pd=0 as=0 ps=0
C0 b 0 5.66fF
C1 out 0 3.76fF
C2 d 0 5.66fF
C3 c 0 5.66fF
C4 a 0 5.97fF

Vvdd Vdd 0 2.5V DC
Vd d 0 0 PULSE(0V 2.5V 0 1ns 1ns 160ns 320ns)
Va a 0 0 PULSE(0V 2.5V 0 1ns 1ns 80ns 160ns)
Vb b 0 0 PULSE(0V 2.5V 0 1ns 1ns 40ns 80ns)
Vc c 0 0 PULSE(0V 2.5V 0 1ns 1ns 20ns 40ns)


.control
tran 1ns 320ns
run
plot V(d) V(a) V(b) V(c) V(out) title "F_oai31 All States Plot"
alter Vd=0V
alter Va=0V
alter Vb=0V
alter Vc=0V

op


print V(d) V(a) V(b) V(c) V(out)
alter Vc=2.5V
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=0v
alter Vb=2.5V
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=2.5v
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=0v
alter Vb=0V
alter Va=2.5V
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=2.5v
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=0v
alter Vb=2.5v
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc = 2.5
op
print V(d) V(a) V(b) V(c) V(out)

alter Vd=2.5v

op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=2.5V
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=0v
alter Vb=2.5V
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=2.5v
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=0v
alter Vb=0V
alter Va=2.5V
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=2.5v
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc=0v
alter Vb=2.5v
op
print V(d) V(a) V(b) V(c) V(out)
alter Vc = 2.5
op
print V(d) V(a) V(b) V(c) V(out)
.endc

.end
